US08314092B2
Mix methyl 3-[4-(2-bromo-7-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoate (1.00 equiv; 620.00 mg, 1.31 mmoles), triethenylboroxin pyridine (1.5 equiv; 472.79 mg, 1.96 mmoles;) in methanol (15 mL). Add a pre-blended mixture of 1.09 wt % tris(dibenzylideneacetonyl)bis-palladium (Pd2(dba)3), 1.16 wt % 1,1′-bis(di-tert-butylphosphino)ferrocene (dtbpf) and 97.75 wt % tripotassium phosphate (1.10 g) and heat at 140° C. for 25 mins in a microwave. Filter the reaction mixture through celite and dilute to 25 mL volume with methanol. Hydrogenate the methanolic solution by passing at 1 mL/min. through a H-Cube® flow hydrogenator using a 10% Pd/C catalytic cartridge at 50° C. Evaporate the solvent in vacuo to give methyl 3-[4-(2-ethyl-7-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoate. MS (m/z): 423.18 (M+1).

reactant | methyl 3-[4-(2-bromo-7-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoate | 1.31 mmoles, 620.00 mg, 1.00 equiv | BrC=1C=C2C(=NC3=C(CN2C1)C=C(C=C3)C)N3CCN(CC3)CC(C(=O)OC)(C)C | C23H29BrN4O2
reactant | triethenylboroxin pyridine | 1.96 mmoles, 472.79 mg, 1.5 equiv | N1=CC=CC=C1.C(=C)B1OB(OB(O1)C=C)C=C
reactant | tripotassium phosphate | 1.10 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | methanol | 15 mL | CO | CH4O
catalyst | tris(dibenzylideneacetonyl)bis-palladium | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene | C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | methyl 3-[4-(2-ethyl-7-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoate | C(C)C=1C=C2C(=NC3=C(CN2C1)C=C(C=C3)C)N3CCN(CC3)CC(C(=O)OC)(C)C | C25H34N4O2
